US07098212B2
(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzyloxy)-acetyl methanesulfonamide
To a solution of (5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzyloxy)-acetic acid (0.11 g, 0.22 mmol) in dichloromethane (10 mL) was added 4-dimethylaminopyridine (0.04 g, 0.33 mmol) and 1,3-dicyclohexylcarbodiimide (0.049 g, 0.24 mmol). The resulting reaction mixture was stirred at ambient temperature for 20 minutes and then treated with methanesulfonamide (0.025 g, 0.26 mmol). The reaction was stirred at ambient temperature for 18 hours, filtered through a pad of celite and the resulting filter cake was washed with dichloromethane. The combined organics were concentrated in vacuo and purified via chromatography on silica gel to give the title compound (0.045 g, LRMS: 556.2).

reactant | (5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzyloxy)-acetic acid | 0.22 mmol, 0.11 g | ClC=1C=CC(=C(COCC(=O)O)C1)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C24H28ClFN2O5
reactant | 1,3-dicyclohexylcarbodiimide | 0.24 mmol, 0.049 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methanesulfonamide | 0.26 mmol, 0.025 g | CS(=O)(=O)N | CH5NO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.33 mmol, 0.04 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzyloxy)-acetyl methanesulfonamide | 0.045 g | ClC=1C=CC(=C(COC(S(=O)(=O)N)C(C)=O)C1)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C25H31ClFN3O6S
